US06518423B1
Methyl 4-cyano-10-(methoxyethyl)-10H-pyrido[3,2-b][1,4]-benzothiazine-8-carboxylate
To a solution of methyl 3-amino-4-(1-oxo-4-cyano-3-pyridylthio)benzoate in pyridine (20 ml) was added 5 ml of acetic anhydride and the resulting mixture was stirred for 16 hours. Then the reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (eluted with dichloromethane/ethyl acetate) to thereby give 0.45 g of methyl 3-acetamido-4-(1-oxo-4-cyano-3-pyridylthio)benzoate as a colorless solid. 0.079 g of sodium hydride was added in a nitrogen atmosphere to a solution of 0.45 g of methyl 3-acetamido-4-(1-oxo-4-cyano-3-pyridylthio)benzoate in N,N-dimethylformamide (15 ml) and the resulting mixture was stirred for 10 minutes. After adding 0.503 g of sulfur, the resulting mixture was stirred at 130° C. for 15 minutes. The reaction mixture was diluted with water and the crystals thus precipitated were taken up by filtration and washed with water. Thus 0.267 g of methyl 4-cyano-10H-pyrido[3,2-b][1,4]-benzothiazine-8-carboxylate was obtained as yellow crystals. To a solution of 0. 267 g of methyl 4-cyano-10H-pyrido[3,2-b][1,4]-benzothiazine-8-carboxylate in N,N-dimethylformamide (20 ml) were successively added in a nitrogen atmosphere 0.045 g of sodium hydride and a solution of 0.12 ml of chloromethyl methyl ether in N,N-dimethylformamide (9 ml) and the resulting mixture was stirred for 1 hour. Then the reaction mixture was diluted with water and eluted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluted with n-hexane/dichloromethane) to thereby give 0.152 g of the title compound as pale yellow crystals.

reactant | methyl 4-cyano-10H-pyrido[3,2-b][1,4]-benzothiazine-8-carboxylate | 267 g | C(#N)C1=CC=NC2=C1SC1=C(N2)C=C(C=C1)C(=O)OC | C14H9N3O2S
reactant | sodium hydride | [H-].[Na+]
reactant | chloromethyl methyl ether | 0.12 ml | COCCl | C2H5ClO
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Methyl 4-cyano-10-(methoxyethyl)-10H-pyrido[3,2-b][1,4]-benzothiazine-8-carboxylate | 0.152 g | C(#N)C1=CC=NC2=C1SC1=C(N2CCOC)C=C(C=C1)C(=O)OC | C17H15N3O3S
